US04002751
Following the process of example 4 and using an equivalent amount of the 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methyl-2-benzylidenehydrazino)-pyridazin-3(2H)-one above in place of the 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methylhydrazino)-pyridazin-3(2H)-one used therein there is obtained 2-(3-trifluoromethylphenyl)-5-(1-methyl-2-benzylhydrazino)-pyridazin-3(2H)-one, (m.p. 89° to 90° C).

reactant | 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methyl-2-benzylidenehydrazino)-pyridazin-3(2H)-one | ClC=1C(N(N=CC1N(N=CC1=CC=CC=C1)C)C1=CC(=CC=C1)C(F)(F)F)=O | C19H14ClF3N4O
reactant | 4-chloro-2-(3-trifluoromethylphenyl)-5-(1-methylhydrazino)-pyridazin-3(2H)-one | ClC=1C(N(N=CC1N(N)C)C1=CC(=CC=C1)C(F)(F)F)=O | C12H10ClF3N4O
product | 2-(3-trifluoromethylphenyl)-5-(1-methyl-2-benzylhydrazino)-pyridazin-3(2H)-one | FC(C=1C=C(C=CC1)N1N=CC(=CC1=O)N(NCC1=CC=CC=C1)C)(F)F | C19H17F3N4O
